US06080886
A solution of 4-t-butylcyclohexanone (308 mg, 2.0 mmol) in CH2Cl2 (10.0 mL) was added to diethylaminosulfur trifluoride (483 mg, 3.0 mmol ) at room temperature under N2. BF3.OEt2 (100 mL) was added and the mixture was stirred for 6 h at room temperature. The mixture was washed with saturated NaHCO3, dried (Na2SO4), filtered and evaporated in vacuo. Proton and Fluorine NMR with 4-fluoroanisole (2 mmol) as internal standard showed that a 67% yield of 1,1-difluoro-4-t-butylcyclohexane was obtained.

reactant | 4-t-butylcyclohexanone | 2.0 mmol, 308 mg | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | diethylaminosulfur trifluoride | 3.0 mmol, 483 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | BF3.OEt2 | 100 mL | B(F)(F)F.CCOCC
reactant | 4-fluoroanisole | 2 mmol | FC1=CC=C(C=C1)OC | C7H7FO
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 1,1-difluoro-4-t-butylcyclohexane | 67% yield | FC1(CCC(CC1)C(C)(C)C)F | C10H18F2
